US07939644B2
2.22 g (7.73 mmol) of lithium bis(trifluoromethanesulfonyl)imide, Li[(CF3SO2)2N], in 5 ml of water are added dropwise with stirring to a solution of 2.00 g (7.75 mmol) of 3-ethyl-2-methylbenzothiazolium bromide in 50 ml of water. The lower liquid phase is extracted a number of times with 50 ml of dichloromethane, and the combined organic phases are dried using Mg2SO4. The solvent is subsequently removed by distillation, and the residue is dried under a reduced pressure of 1.3 Pa at 60° C., giving 3.14 g of 3-ethyl-2-methylbenzothiazolium bis(trifluoromethanesulfonyl)imide, corresponding to a yield of 88.7%.

reactant | lithium bis(trifluoromethanesulfonyl)imide | 7.73 mmol, 2.22 g | [N-](S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F.[Li+]
reactant | 3-ethyl-2-methylbenzothiazolium bromide | 7.75 mmol, 2.00 g | [Br-].C(C)[N+]1=C(SC2=C1C=CC=C2)C
solvent | water | 5 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 3-ethyl-2-methylbenzothiazolium bis(trifluoromethanesulfonyl)imide | 3.14 g, yield of 88.7% | [N-](S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F.C(C)[N+]1=C(SC2=C1C=CC=C2)C | InChI=1S/C10H12NS.C2F6NO4S2/c1-3-11-8(2)12-10-7-5-4-6-9(10)11;3-1(4,5)14(10,11)9-15(12,13)2(6,7)8/h4-7H,3H2,1-2H3;/q+1;-1
